US08426420B2
iv) 4-((S)-2-Benzyloxycarbonylamino-4,4,4-trifluoro-butyryl)-piperazine-1-carboxylic acid propyl ester
To a solution of 118 mg (S)-2-Benzyloxycarbonylamino-4,4,4-trifluoro-butyric acid in 2 ml DMF were added 70 mg 1-propoxycarbonylpiperazine, 0.18 ml N-ethylmorpholine and 238 mg TOTU. After stirring for 12 h it was diluted with ethyl acetate and extracted with aqueous LiCl (4% w/w), aqueous NaHCO3, 0.1 M HCl and brine. The organic layer was dried over MgSO4 and concentrated to furnish the crude coupling product which was used without further purification in the next step.

reactant | (S)-2-Benzyloxycarbonylamino-4,4,4-trifluoro-butyric acid | 118 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC(F)(F)F | C12H12F3NO4
reactant | 1-propoxycarbonylpiperazine | 70 mg | C(CC)OC(=O)N1CCNCC1 | C8H16N2O2
reactant | N-ethylmorpholine | 0.18 ml | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 238 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((S)-2-Benzyloxycarbonylamino-4,4,4-trifluoro-butyryl)-piperazine-1-carboxylic acid propyl ester | C(CC)OC(=O)N1CCN(CC1)C([C@H](CC(F)(F)F)NC(=O)OCC1=CC=CC=C1)=O | C20H26F3N3O5
